US07390798B2
Step A: tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-2-hydrazonoazepan-3-ylcarbamate
Hydrazine monohydrate (2.23 mL, 46.0 mmol) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-ylcarbamate (546 mg, 1.53 mmol) in methanol (25 mL). After 30 min, the mixture was concentrated under reduced pressure. Saturated aqueous NaHCO3 was added and the mixture was extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure to give the title compound. MS: m/z=355 (M+1).

reactant | Hydrazine monohydrate | 46.0 mmol, 2.23 mL | O.NN
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-ylcarbamate | 1.53 mmol, 546 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=S)NC(OC(C)(C)C)=O | C17H22F2N2O2S
solvent | methanol | 25 mL | CO | CH4O
product | tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-2-hydrazonoazepan-3-ylcarbamate | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=NN)NC(OC(C)(C)C)=O | C17H24F2N4O2
